US06326503B1
Preparation of 1α-(tert-butyidimethylsilyloxy)-3β-hydroxy-20(S)-{(E)-4-hydroxy-4-methyl-2-pentenylthio}pregna-5,7,16-triene
Under the same conditions as in Example 3, 1α-(tert-butyldimethylsilyloxy)-3β-hydroxy-20(S)-phenoxycarbonylthiopregna-5,7,16-triene (33.5 mg, 0.0577 mmol), (E)-5-bromo-2-methyl-3-penten-2-ol (41.2 mg, 0.230 mmol), tetrahydrofuran (0.5 ml) and 1M KOH solution in methanol (0.5 ml) were reacted and worked up, and then the residue was purified by preparative thin layer chromatography (0.5 mm×1, dichloromethane:ethyl acetate=5:1, developed twice) to give 26.2 mg of a product, which was directly used in the subsequent reaction because it was difficult to separate from (E)-5-bromo-2-methyl-3-penten-2-ol.

reactant | 1α-(tert-butyldimethylsilyloxy)-3β-hydroxy-20(S)-phenoxycarbonylthiopregna-5,7,16-triene | 0.0577 mmol, 33.5 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@H](C)SC(=O)OC5=CC=CC=C5)[C@]4(CC[C@@H]3[C@@]12C)C)O | C34H48O4SSi
reactant | (E)-5-bromo-2-methyl-3-penten-2-ol | 0.230 mmol, 41.2 mg | BrC/C=C/C(C)(O)C | C6H11BrO
reactant | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
reactant | KOH | 1M | [OH-].[K+]
solvent | methanol | 0.5 ml | CO | CH4O
product | 1α-(tert-butyidimethylsilyloxy)-3β-hydroxy-20(S)-{(E)-4-hydroxy-4-methyl-2-pentenylthio}pregna-5,7,16-triene | 26.2 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@H](C)SC\C=C\C(C)(C)O)[C@]4(CC[C@@H]3[C@@]12C)C)O | C33H54O3SSi
